US06984653B2
Production of 2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-4-[[4-[4-[2-[[(trifluoromethyl)sulfonyl]methyl]-1H -imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole
Triethylamine (91.0 μl), trimethyl phosphite (77.0 μl) and trifluoromethanesulfonyl chloride (69.5 μl) were added to a solution of [1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]methanol (250 mg, 0.503 mmol) in THF (5 ml) at −30° C., and the mixture was stirred at the same temperature for 20 min and at room temperature for 1 hr. The reaction mixture was combined with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1) and recrystallized from ethyl acetate-hexane to give the titled compound (38 mg) as a colorless crystal powder.

reactant | Triethylamine | 91.0 μl | C(C)N(CC)CC | C6H15N
reactant | trimethyl phosphite | 77.0 μl | P(OC)(OC)OC | C3H9O3P
reactant | trifluoromethanesulfonyl chloride | 69.5 μl | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | [1-[4-[4-[[2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-1,3-oxazol-4-yl]methoxy]phenyl]butyl]-1H-imidazol-2-yl]methanol | 0.503 mmol, 250 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CO)(F)F | C27H26F3N3O3
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[(E)-2-[4-(trifluoromethyl)phenyl]ethenyl]-4-[[4-[4-[2-[[(trifluoromethyl)sulfonyl]methyl]-1H -imidazol-1-yl]butyl]phenoxy]methyl]-1,3-oxazole | 38 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C(=NC=C1)CS(=O)(=O)C(F)(F)F)(F)F | C28H25F6N3O4S
